US08242125B2
51-B. (±)-5-(6-Methyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (5-tert-butyl-2H-pyrazol-3-yl)-amide
A solution of 4-[1-(5-tert-butyl-2H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (300 mg, 0.55 mmol), DCM (5 mL), and TFA (5 mL) is stirred at it for 2 h. At that point the solution is concentrated and the residue separated via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give the title compound. MS (ESI) m/z 446.2 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.37 (s, 1H), 8.32 (d, J=8.8 Hz, 1 H), 7.88 (d, J=3.5 Hz, 1H), 7.38 (d, J=2.3 Hz, 1H), 7.08 (dd, J=9.1, 2.3 Hz, 1H), 6.71 (d, J=3.8 Hz, 1H), 6.38 (br. S., 1H), 6.06 (br. S., 1H), 4.00 (d, J=6.1 Hz, 2H), 3.05-3.15 (m, 1H), 3.00 (dd, J=17.2, 3.5 Hz, 1H), 2.47 (dd, J=17.2, 10.4 Hz, 1H), 1.36 (s, 9H), 1.34 (d, J=6.3 Hz, 3H).

reactant | 4-[1-(5-tert-butyl-2H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.55 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1C)OC=1C=C2C=CN(C2=CC1)C(NC=1NN=C(C1)C(C)(C)C)=O | C29H35N7O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-5-(6-Methyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (5-tert-butyl-2H-pyrazol-3-yl)-amide | C(C)(C)(C)C=1C=C(NN1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNC(C2)C | C24H27N7O2
